US08058461B2
5b) 7-(Bromomethyl)-2-methyl-1H-indene
To a solution of 17.9 g (70 mmol) of 4-(bromomethyl)-1-methoxy-2-methylindane in 300 ml of toluene 2.0 g of TsOH was added at 110° C. This mixture was refluxed with Dean-Stark trap within 15 minutes and then passed through short column with silica gel 60 (40-63 μm). The silica gel layer was additionally washed by 200 ml of toluene. The combined elute was evaporated to dryness. The product was isolated by flash chromatography on silica gel 60 (40-63 μm, eluent: hexanes). Yield 15.6 g (96%). Anal. calc. for C11H11Br: C, 59.22; H, 4.97. Found: C, 59.33; H, 5.08. 1H NMR (CDCl3): δ 7.19-7.23 (m, 2H, 4,6-H), 7.10 (m, 1H, 5-H), 6.50 (m, 1H, 3-H), 4.56 (s, 2H, CH2Br), 3.36 (br.s, 2H, 1,1′-H), 2.19 (m, 3H, 2-Me). 13C{1H} NMR (CDCl3): δ 146.6, 146.2, 142.4, 132.0, 127.17, 127.14, 124.4, 120.2, 40.9, 31.7, 16.7.

reactant | 4-(bromomethyl)-1-methoxy-2-methylindane | 70 mmol, 17.9 g | BrCC1=C2CC(C(C2=CC=C1)OC)C | C12H15BrO
reactant | TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 300 ml, 2.0 g | C1(=CC=CC=C1)C | C7H8
product | 7-(Bromomethyl)-2-methyl-1H-indene | BrCC=1C=CC=C2C=C(CC12)C | C11H11Br
